US08247479B2
4-Amino-N-propoxy-2,2,6,6-tetramethylpiperidine (1.6 g, 62%) is prepared from N-propoxy-4-oxo-2,2,6,6-tetramethylpiperidine (12.2 mmol, 2.60 g) by the same method as described above, with the exception of the addition of ammonium acetate (122 mmol, 9.40 g), 6 g molecular sieves (10−10 m) and 95% NaBH3CN (12.2 mmol, 0.8 g). 1H-NMR (CDCl3); δ=3.61 (t, J=6.6 Hz, 2H, CH2—O), 2.99 (m, 1H, NH2—CH), 1.58 (d, J=11.4 Hz, 2H, NH2), 1.46 (m, 2H, CH2—CH3), 1.20 (m, 4H), 1.16 (s, 6H, CH3), 1.13 (s, 6H, CH3), 0.93 (t, J=7.4 Hz, 3H, CH2—CH3); 13C-NMR (CDCl3): δ=78.3, 59.8, 49.9, 41.4, 33.2, 21.9, 20.9, 10.9.

reactant | N-propoxy-4-oxo-2,2,6,6-tetramethylpiperidine | 12.2 mmol, 2.60 g | C(CC)ON1C(CC(CC1(C)C)=O)(C)C | C12H23NO2
reactant | ammonium acetate | 122 mmol, 9.40 g | C(C)(=O)[O-].[NH4+]
reactant | NaBH3CN | 12.2 mmol, 0.8 g | [BH3-]C#N.[Na+]
product | 4-Amino-N-propoxy-2,2,6,6-tetramethylpiperidine | 1.6 g, 62% | NC1CC(N(C(C1)(C)C)OCCC)(C)C | C12H26N2O
